US07553845B2
(4-amino-3-methoxyphenyl)[6-amino-1-(4-methoxyphenyl)-2-methylindolizin-3-yl]methanone
This compound is prepared according to the same method as that described in Example 49 by unblocking tert-butyl [3-(4-amino-3-methoxybenzoyl)-1-(4-methoxyphenyl)-2-methylindolizin-6-yl]carbamate with trifluoroacetic acid.

reactant | tert-butyl [3-(4-amino-3-methoxybenzoyl)-1-(4-methoxyphenyl)-2-methylindolizin-6-yl]carbamate | NC1=C(C=C(C(=O)C2=C(C(=C3C=CC(=CN23)NC(OC(C)(C)C)=O)C2=CC=C(C=C2)OC)C)C=C1)OC | C29H31N3O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (4-amino-3-methoxyphenyl)[6-amino-1-(4-methoxyphenyl)-2-methylindolizin-3-yl]methanone | NC1=C(C=C(C=C1)C(=O)C1=C(C(=C2C=CC(=CN12)N)C1=CC=C(C=C1)OC)C)OC | C24H23N3O3
